### PR TITLE
Eliminate vlsm run

### PR DESCRIPTION
**Pull request by traiansf**
Added an inductive property `finite_protocol_init_to_emit` which also tracks the final output message and yields a stronger induction hypothesis.

### CODE REVIEW

File: Lib/ListExtras.v [hunk 1]
```diff
@@ -22,12 +22,11 @@ Qed.
 (** A list is either null or it can be decomposed into an initial prefix
 and a last element *)
 Lemma null_or_exists_last {S} (l : list S)
-  : l = [] \/ exists (l' : list S) (a : S), l = l' ++ [a].
+  : sum (l = nil) {l' : list S & {a : S | l = l' ++ (a::nil)}} .
```
Comment (palmskog) [inline Lib/ListExtras.v:25]:
```suggestion
  : { l' : list S & {a : S | l = l' ++ [a] }}+{ l = [] }.
```
Let's use regular Coq notations whenever we can. Note that `right` and `left` in the proof need to be switched after this change.

File: VLSM/Equivocators/Composition/SimulatingFree/FullReplayTraces.v [hunk 2]
```diff
@@ -320,8 +320,21 @@ Proof.
     unfold equivocator_state_extend. simpl.
     specialize (equivocators_initial_state_size IM Hbs is His eqv) as His_size.
     split; [rewrite His_size; reflexivity|].
-    split; [congruence|].
-    split.
+    repeat split.
+    + destruct (composite_apply_plan _ _ _) as (tr, s) eqn:Hplan. simpl.
```
Comment (bmmoore) [inline VLSM/Equivocators/Composition/SimulatingFree/FullReplayTraces.v:324]: I guess more proof is needed here because now the claim in the theorem statement isn't trivial true (by `congruence`) if `epref = []`.

File: VLSM/Common.v [hunk 3]
```diff
@@ -1512,11 +1528,197 @@ that include the final state, and give appropriate induction principles.
...
+        + apply IHHtr. assumption.
+        + split; assumption.
+        + assumption.
+    Qed.
+
+(** An inductive protocol trace property which also identifies the final message.
+
+As shown by the [finite_protocol_trace_init_to_emit_protocol]  and
+[finite_protocol_trace_init_to_emit_protocol_rev] lemmas below, this definition
+is the trace-equivalent of the [protocol_prop]erty.
```
Comment (bmmoore) [inline VLSM/Common.v:1564]: This inductive is somehow reflecting that fact that a that `protocol_prop X (s,om)` holds only if `s` and `om` are the final state and output of an initial protocol trace, or a pair of an initial state and option-initial message. It follows the inductive structure of protocol_prop, but augments every node of the tree with such an exhibiting trace. Actually slightly stronger, because the trace is always an extension of the trace for the predecessor state.

File: VLSM/Equivocators/Composition/SimulatingFree/SimulatingFree.v [hunk 4]
```diff
@@ -323,25 +323,25 @@ Proof.
   assumption.
 Qed.
 
-Lemma equivocators_protocol_vlsm_run_project
-  (runX : vproto_run SeededX)
-  (HrunX : vlsm_run_prop SeededX runX)
+Lemma seeded_equivocators_finite_protocol_trace_init_to_rev
```
Comment (bmmoore) [inline VLSM/Equivocators/Composition/SimulatingFree/SimulatingFree.v:326]: This is nice. Somehow a lemma about finite_protocol_trace_init_to seems like a much more natural sort of property to be proving than something about vlsm_run_prop. Maybe just because we use traces much more frequently.

**Review by bmmoore — APPROVED** [review]
Looks good.
